US05650513
N-Cycloheptylperylene-3,4-dicarboximide
0.30 g (0.93 mmol) of perylene-3,4-dicarboxylic anhydride is mixed with 0.32 g (2.83 mmol) of cycloheptylamine and 3 g of imidazole, and the mixture is heated under argon at 150° C. for 4 h. The reaction product is removed from the flask by washing with ethanol, treated with 200 ml of 10% hydrochloric acid and filtered off with suction. The residue is boiled in potassium carbonate solution, filtered off with suction and washed with hot dist. water until the filtrate run-off is colourless. The product thus obtained is dried in a drying cabinet at 120° C. and then recrystallized by extraction with methanol. Yield 0.24 g (62%) of orange crystals showing a red solid fluorescence, m.p. 354°-355° C., Rf (CHCl3 /silica gel)=0.79. UV (CHCl3): λmax (ε)=505 (30370), 483 (30967), 353 (3170), 336 (3170), 295 (3460), 264 (29047). Fluorescence (CHCl3): λmax (Irel)=529 (1), 568 (0.48).

reactant | perylene-3,4-dicarboxylic anhydride | 0.93 mmol, 0.30 g | C1=CC2=C3C(=CC=C4C5=CC=CC6=CC=CC(C1=C34)=C56)C(=O)OC2=O | C22H10O3
reactant | cycloheptylamine | 2.83 mmol, 0.32 g | C1(CCCCCC1)N | C7H15N
reactant | imidazole | 3 g | N1C=NC=C1 | C3H4N2
product | N-Cycloheptylperylene-3,4-dicarboximide | C1(CCCCCC1)N1C(=O)C=2C=CC=3C=4C=CC=C5C=CC=C(C6=CC=C(C2C63)C1=O)C54 | C29H23NO2
